* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.003517780362216812
Fd1_1 0 s1 V1 -0.1758890181108406
Gr1_re_1_1 0 s1 x1_re_a1 0 3351079649.80799
Gr1_im_1_1 0 s1 x1_im_a1 0 806237113.9545853
Gr2_re_1_1 0 s1 x2_re_a1 0 2842266336.1166577
Gr2_im_1_1 0 s1 x2_im_a1 0 -2939962299.073583
Gr3_re_1_1 0 s1 x3_re_a1 0 -1600719.382078346
Gr3_im_1_1 0 s1 x3_im_a1 0 -1764048.1446051921
Gr4_re_1_1 0 s1 x4_re_a1 0 58046.793780709115
Gr4_im_1_1 0 s1 x4_im_a1 0 -2130863.0012599807
Gr5_re_1_1 0 s1 x5_re_a1 0 -316859.78245242377
Gr5_im_1_1 0 s1 x5_im_a1 0 -1524690.0553322788
Gr6_1_1 0 s1 x6_a1 0 -520265.24898350873
Gr7_re_1_1 0 s1 x7_re_a1 0 -710449.5694969201
Gr7_im_1_1 0 s1 x7_im_a1 0 -25573.00486360466
Gr8_re_1_1 0 s1 x8_re_a1 0 2222756.379874024
Gr8_im_1_1 0 s1 x8_im_a1 0 283721.01544476283
Gd1_2 0 s1 p2 0 3.816946718698576e-06
Fd1_2 0 s1 V2 0.0001908473359349288
Gr1_re_1_2 0 s1 x1_re_a2 0 -4237666.348036268
Gr1_im_1_2 0 s1 x1_im_a2 0 -3194728.4109871346
Gr2_re_1_2 0 s1 x2_re_a2 0 -8679934.642609457
Gr2_im_1_2 0 s1 x2_im_a2 0 1120620.2592194856
Gr3_re_1_2 0 s1 x3_re_a2 0 -497181.4302173535
Gr3_im_1_2 0 s1 x3_im_a2 0 -839437.3238482594
Gr4_re_1_2 0 s1 x4_re_a2 0 230888.20231743864
Gr4_im_1_2 0 s1 x4_im_a2 0 -1216387.3478321135
Gr5_re_1_2 0 s1 x5_re_a2 0 -73322.29271697762
Gr5_im_1_2 0 s1 x5_im_a2 0 -1286429.3721483669
Gr6_1_2 0 s1 x6_a2 0 -1124782.3264179875
Gr7_re_1_2 0 s1 x7_re_a2 0 131133.39548559868
Gr7_im_1_2 0 s1 x7_im_a2 0 -900740.5158829574
Gr8_re_1_2 0 s1 x8_re_a2 0 327504.78832802904
Gr8_im_1_2 0 s1 x8_im_a2 0 -647290.1859502555
Gd1_3 0 s1 p3 0 -2.1450585344986558e-05
Fd1_3 0 s1 V3 -0.001072529267249328
Gr1_re_1_3 0 s1 x1_re_a3 0 2309214.6868562964
Gr1_im_1_3 0 s1 x1_im_a3 0 7886152.635961497
Gr2_re_1_3 0 s1 x2_re_a3 0 31398710.264541794
Gr2_im_1_3 0 s1 x2_im_a3 0 24489131.433115076
Gr3_re_1_3 0 s1 x3_re_a3 0 -9201481.576962393
Gr3_im_1_3 0 s1 x3_im_a3 0 4266634.004290721
Gr4_re_1_3 0 s1 x4_re_a3 0 -12609779.022920491
Gr4_im_1_3 0 s1 x4_im_a3 0 7573082.570501572
Gr5_re_1_3 0 s1 x5_re_a3 0 -4578118.713479899
Gr5_im_1_3 0 s1 x5_im_a3 0 18001461.41601015
Gr6_1_3 0 s1 x6_a3 0 26543517.638054978
Gr7_re_1_3 0 s1 x7_re_a3 0 3574345.477057193
Gr7_im_1_3 0 s1 x7_im_a3 0 26495978.530026443
Gr8_re_1_3 0 s1 x8_re_a3 0 30420508.57489523
Gr8_im_1_3 0 s1 x8_im_a3 0 20200855.008195
Gd1_4 0 s1 p4 0 -2.6165134636920454e-07
Fd1_4 0 s1 V4 -1.3082567318460228e-05
Gr1_re_1_4 0 s1 x1_re_a4 0 20857.26327634584
Gr1_im_1_4 0 s1 x1_im_a4 0 82334.0853377362
Gr2_re_1_4 0 s1 x2_re_a4 0 363351.48352870287
Gr2_im_1_4 0 s1 x2_im_a4 0 271123.7130891929
Gr3_re_1_4 0 s1 x3_re_a4 0 16527.03042920512
Gr3_im_1_4 0 s1 x3_im_a4 0 78794.7646149211
Gr4_re_1_4 0 s1 x4_re_a4 0 -6334.972648081036
Gr4_im_1_4 0 s1 x4_im_a4 0 72119.49746821917
Gr5_re_1_4 0 s1 x5_re_a4 0 21985.30924110235
Gr5_im_1_4 0 s1 x5_im_a4 0 70627.98780779894
Gr6_1_4 0 s1 x6_a4 0 18252.258456871936
Gr7_re_1_4 0 s1 x7_re_a4 0 28540.09593393111
Gr7_im_1_4 0 s1 x7_im_a4 0 100327.45538758373
Gr8_re_1_4 0 s1 x8_re_a4 0 150128.0527491781
Gr8_im_1_4 0 s1 x8_im_a4 0 64460.82167412375
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 5.459780391024284e-11
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 275553683290.4843
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -275553683290.4843
Rp1_im_im_a1 0 x1_im_a1 5.459780391024284e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.7687306859576826e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 168627794214.79266
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -168627794214.79266
Rp2_im_im_a1 0 x2_im_a1 1.7687306859576826e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.0961781576894717e-08
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 2919704298.026737
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -2919704298.026737
Rp3_im_im_a1 0 x3_im_a1 2.0961781576894717e-08
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.8418113524322192e-08
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 2031447966.5871341
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -2031447966.5871341
Rp4_im_im_a1 0 x4_im_a1 1.8418113524322192e-08
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.6775599720186417e-08
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 1622484916.8035316
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -1622484916.8035316
Rp5_im_im_a1 0 x5_im_a1 1.6775599720186417e-08
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 1.495011862748761e-08
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.475874716179817e-08
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 799202811.7843775
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -799202811.7843775
Rp7_im_im_a1 0 x7_im_a1 1.475874716179817e-08
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.405368041667279e-08
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 392250270.75727797
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -392250270.75727797
Rp8_im_im_a1 0 x8_im_a1 1.405368041667279e-08
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 3.853250158116217e-06
Fd2_1 0 s2 V1 0.00019266250790581085
Gr1_re_2_1 0 s2 x1_re_a1 0 -4263552.8563152375
Gr1_im_2_1 0 s2 x1_im_a1 0 -3152714.1543728556
Gr2_re_2_1 0 s2 x2_re_a1 0 -8682457.587392285
Gr2_im_2_1 0 s2 x2_im_a1 0 1179726.00512511
Gr3_re_2_1 0 s2 x3_re_a1 0 -496828.1647641331
Gr3_im_2_1 0 s2 x3_im_a1 0 -838794.6056844658
Gr4_re_2_1 0 s2 x4_re_a1 0 230528.63391572787
Gr4_im_2_1 0 s2 x4_im_a1 0 -1215599.3937039261
Gr5_re_2_1 0 s2 x5_re_a1 0 -73704.99849286817
Gr5_im_2_1 0 s2 x5_im_a1 0 -1285864.4889867
Gr6_2_1 0 s2 x6_a1 0 -1125915.0743191931
Gr7_re_2_1 0 s2 x7_re_a1 0 131154.54859483964
Gr7_im_2_1 0 s2 x7_im_a1 0 -900166.7983425875
Gr8_re_2_1 0 s2 x8_re_a1 0 328637.8051266796
Gr8_im_2_1 0 s2 x8_im_a1 0 -647334.8002461416
Gd2_2 0 s2 p2 0 -0.0035372907613709804
Fd2_2 0 s2 V2 -0.17686453806854902
Gr1_re_2_2 0 s2 x1_re_a2 0 3301645852.172546
Gr1_im_2_2 0 s2 x1_im_a2 0 1089251154.9725294
Gr2_re_2_2 0 s2 x2_re_a2 0 3332086224.189308
Gr2_im_2_2 0 s2 x2_im_a2 0 -2911763161.602355
Gr3_re_2_2 0 s2 x3_re_a2 0 -1362064.29278107
Gr3_im_2_2 0 s2 x3_im_a2 0 -1788346.8346676938
Gr4_re_2_2 0 s2 x4_re_a2 0 216415.35082326687
Gr4_im_2_2 0 s2 x4_im_a2 0 -2055567.350495498
Gr5_re_2_2 0 s2 x5_re_a2 0 19817.54904363359
Gr5_im_2_2 0 s2 x5_im_a2 0 -1397033.2760326331
Gr6_2_2 0 s2 x6_a2 0 -601118.9922563214
Gr7_re_2_2 0 s2 x7_re_a2 0 -447562.334580704
Gr7_im_2_2 0 s2 x7_im_a2 0 198421.66376959364
Gr8_re_2_2 0 s2 x8_re_a2 0 3147960.171285468
Gr8_im_2_2 0 s2 x8_im_a2 0 516955.2915379723
Gd2_3 0 s2 p3 0 -2.5757726712319956e-07
Fd2_3 0 s2 V3 -1.2878863356159977e-05
Gr1_re_2_3 0 s2 x1_re_a3 0 29262.10184187807
Gr1_im_2_3 0 s2 x1_im_a3 0 83570.79442631501
Gr2_re_2_3 0 s2 x2_re_a3 0 349136.44020476326
Gr2_im_2_3 0 s2 x2_im_a3 0 266357.76827255695
Gr3_re_2_3 0 s2 x3_re_a3 0 17300.540150350265
Gr3_im_2_3 0 s2 x3_im_a3 0 76518.49543693253
Gr4_re_2_3 0 s2 x4_re_a3 0 -8242.320233374869
Gr4_im_2_3 0 s2 x4_im_a3 0 66631.68755023938
Gr5_re_2_3 0 s2 x5_re_a3 0 19300.679489528404
Gr5_im_2_3 0 s2 x5_im_a3 0 70075.4730171521
Gr6_2_3 0 s2 x6_a3 0 12194.73002337338
Gr7_re_2_3 0 s2 x7_re_a3 0 23051.52163767515
Gr7_im_2_3 0 s2 x7_im_a3 0 103159.40031762932
Gr8_re_2_3 0 s2 x8_re_a3 0 159552.84733229288
Gr8_im_2_3 0 s2 x8_im_a3 0 68554.66687548062
Gd2_4 0 s2 p4 0 -2.176754592175587e-05
Fd2_4 0 s2 V4 -0.0010883772960877936
Gr1_re_2_4 0 s2 x1_re_a4 0 2353299.2032486144
Gr1_im_2_4 0 s2 x1_im_a4 0 7993554.679720039
Gr2_re_2_4 0 s2 x2_re_a4 0 31808560.347510234
Gr2_im_2_4 0 s2 x2_im_a4 0 24766140.950969525
Gr3_re_2_4 0 s2 x3_re_a4 0 -9096203.08497656
Gr3_im_2_4 0 s2 x3_im_a4 0 4259200.957829056
Gr4_re_2_4 0 s2 x4_re_a4 0 -12508714.778728005
Gr4_im_2_4 0 s2 x4_im_a4 0 7583969.135420736
Gr5_re_2_4 0 s2 x5_re_a4 0 -4501919.15622661
Gr5_im_2_4 0 s2 x5_im_a4 0 17938522.451752458
Gr6_2_4 0 s2 x6_a4 0 26531472.15806634
Gr7_re_2_4 0 s2 x7_re_a4 0 3604676.3461056757
Gr7_im_2_4 0 s2 x7_im_a4 0 26411350.49505739
Gr8_re_2_4 0 s2 x8_re_a4 0 30320745.01765793
Gr8_im_2_4 0 s2 x8_im_a4 0 20134168.624205172
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 5.459780391024284e-11
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 275553683290.4843
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -275553683290.4843
Rp1_im_im_a2 0 x1_im_a2 5.459780391024284e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.7687306859576826e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 168627794214.79266
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -168627794214.79266
Rp2_im_im_a2 0 x2_im_a2 1.7687306859576826e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.0961781576894717e-08
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 2919704298.026737
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -2919704298.026737
Rp3_im_im_a2 0 x3_im_a2 2.0961781576894717e-08
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.8418113524322192e-08
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 2031447966.5871341
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -2031447966.5871341
Rp4_im_im_a2 0 x4_im_a2 1.8418113524322192e-08
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.6775599720186417e-08
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 1622484916.8035316
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -1622484916.8035316
Rp5_im_im_a2 0 x5_im_a2 1.6775599720186417e-08
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 1.495011862748761e-08
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.475874716179817e-08
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 799202811.7843775
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -799202811.7843775
Rp7_im_im_a2 0 x7_im_a2 1.475874716179817e-08
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.405368041667279e-08
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 392250270.75727797
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -392250270.75727797
Rp8_im_im_a2 0 x8_im_a2 1.405368041667279e-08
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 -2.1505104150189874e-05
Fd3_1 0 s3 V1 -0.0010752552075094938
Gr1_re_3_1 0 s3 x1_re_a1 0 2331687.344228677
Gr1_im_3_1 0 s3 x1_im_a1 0 7899408.758435221
Gr2_re_3_1 0 s3 x2_re_a1 0 31440012.740647577
Gr2_im_3_1 0 s3 x2_im_a1 0 24493838.895209987
Gr3_re_3_1 0 s3 x3_re_a1 0 -9191483.603920752
Gr3_im_3_1 0 s3 x3_im_a1 0 4266422.411600256
Gr4_re_3_1 0 s3 x4_re_a1 0 -12599341.87037863
Gr4_im_3_1 0 s3 x4_im_a1 0 7570903.516118272
Gr5_re_3_1 0 s3 x5_re_a1 0 -4571177.667644324
Gr5_im_3_1 0 s3 x5_im_a1 0 17991428.968274508
Gr6_3_1 0 s3 x6_a1 0 26540735.006482147
Gr7_re_3_1 0 s3 x7_re_a1 0 3574774.4728916776
Gr7_im_3_1 0 s3 x7_im_a1 0 26478773.416023877
Gr8_re_3_1 0 s3 x8_re_a1 0 30395190.224096216
Gr8_im_3_1 0 s3 x8_im_a1 0 20189186.490555927
Gd3_2 0 s3 p2 0 -2.546984460482397e-07
Fd3_2 0 s3 V2 -1.2734922302411985e-05
Gr1_re_3_2 0 s3 x1_re_a2 0 27510.880536394896
Gr1_im_3_2 0 s3 x1_im_a2 0 77201.9431206599
Gr2_re_3_2 0 s3 x2_re_a2 0 356359.0898504575
Gr2_im_3_2 0 s3 x2_im_a2 0 271152.842823078
Gr3_re_3_2 0 s3 x3_re_a2 0 17438.661687509502
Gr3_im_3_2 0 s3 x3_im_a2 0 76564.87971420634
Gr4_re_3_2 0 s3 x4_re_a2 0 -8070.555724623558
Gr4_im_3_2 0 s3 x4_im_a2 0 66626.00921465256
Gr5_re_3_2 0 s3 x5_re_a2 0 19335.795367161314
Gr5_im_3_2 0 s3 x5_im_a2 0 69857.20402006639
Gr6_3_2 0 s3 x6_a2 0 10490.653370952114
Gr7_re_3_2 0 s3 x7_re_a2 0 22673.666929511954
Gr7_im_3_2 0 s3 x7_im_a2 0 103025.37553874029
Gr8_re_3_2 0 s3 x8_re_a2 0 160454.28551985143
Gr8_im_3_2 0 s3 x8_im_a2 0 68596.47765531698
Gd3_3 0 s3 p3 0 0.0005077448978193421
Fd3_3 0 s3 V3 0.025387244890967102
Gr1_re_3_3 0 s3 x1_re_a3 0 -361650243.33497775
Gr1_im_3_3 0 s3 x1_im_a3 0 36407745.59716743
Gr2_re_3_3 0 s3 x2_re_a3 0 -550807956.0573287
Gr2_im_3_3 0 s3 x2_im_a3 0 455323474.7729104
Gr3_re_3_3 0 s3 x3_re_a3 0 -1817215.5718083233
Gr3_im_3_3 0 s3 x3_im_a3 0 -793905.2908717378
Gr4_re_3_3 0 s3 x4_re_a3 0 -916138.1758296483
Gr4_im_3_3 0 s3 x4_im_a3 0 -599325.4661875437
Gr5_re_3_3 0 s3 x5_re_a3 0 -949960.5797228126
Gr5_im_3_3 0 s3 x5_im_a3 0 566441.1550486994
Gr6_3_3 0 s3 x6_a3 0 -1828370.0908788522
Gr7_re_3_3 0 s3 x7_re_a3 0 -1312853.502998258
Gr7_im_3_3 0 s3 x7_im_a3 0 262079.2633135782
Gr8_re_3_3 0 s3 x8_re_a3 0 1685329.9027059684
Gr8_im_3_3 0 s3 x8_im_a3 0 311119.8411215731
Gd3_4 0 s3 p4 0 5.992749743689111e-07
Fd3_4 0 s3 V4 2.9963748718445554e-05
Gr1_re_3_4 0 s3 x1_re_a4 0 -36959.339259613094
Gr1_im_3_4 0 s3 x1_im_a4 0 -172029.41420535094
Gr2_re_3_4 0 s3 x2_re_a4 0 -763301.4435683733
Gr2_im_3_4 0 s3 x2_im_a4 0 -588280.7251442068
Gr3_re_3_4 0 s3 x3_re_a4 0 -518658.6069770651
Gr3_im_3_4 0 s3 x3_im_a4 0 -177730.17678357853
Gr4_re_3_4 0 s3 x4_re_a4 0 -767310.0988673749
Gr4_im_3_4 0 s3 x4_im_a4 0 -41574.54567135063
Gr5_re_3_4 0 s3 x5_re_a4 0 -508772.4160468288
Gr5_im_3_4 0 s3 x5_im_a4 0 731389.0148760654
Gr6_3_4 0 s3 x6_a4 0 91004.30251543151
Gr7_re_3_4 0 s3 x7_re_a4 0 34152.12777369008
Gr7_im_3_4 0 s3 x7_im_a4 0 931165.9805569724
Gr8_re_3_4 0 s3 x8_re_a4 0 1349606.2799865892
Gr8_im_3_4 0 s3 x8_im_a4 0 506876.0339448602
*
* State networks driven by port 3
Cx1_re_a3 x1_re_a3 0 1.0
Gx1_re_a3 0 x1_re_a3 p3 0 0.1414213562373095
Fx1_re_a3 0 x1_re_a3 V3 7.0710678118654755
Rp1_re_re_a3 0 x1_re_a3 5.459780391024284e-11
Gp1_re_im_a3 0 x1_re_a3 x1_im_a3 0 275553683290.4843
Cx1_im_a3 x1_im_a3 0 1.0
Gp1_im_re_a3 0 x1_im_a3 x1_re_a3 0 -275553683290.4843
Rp1_im_im_a3 0 x1_im_a3 5.459780391024284e-11
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 1.7687306859576826e-11
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 168627794214.79266
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -168627794214.79266
Rp2_im_im_a3 0 x2_im_a3 1.7687306859576826e-11
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 2.0961781576894717e-08
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 2919704298.026737
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -2919704298.026737
Rp3_im_im_a3 0 x3_im_a3 2.0961781576894717e-08
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 1.8418113524322192e-08
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 2031447966.5871341
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -2031447966.5871341
Rp4_im_im_a3 0 x4_im_a3 1.8418113524322192e-08
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 1.6775599720186417e-08
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 1622484916.8035316
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -1622484916.8035316
Rp5_im_im_a3 0 x5_im_a3 1.6775599720186417e-08
Cx6_a3 x6_a3 0 1.0
Gx6_a3 0 x6_a3 p3 0 0.07071067811865475
Fx6_a3 0 x6_a3 V3 3.5355339059327378
Rp6_a3 0 x6_a3 1.495011862748761e-08
Cx7_re_a3 x7_re_a3 0 1.0
Gx7_re_a3 0 x7_re_a3 p3 0 0.1414213562373095
Fx7_re_a3 0 x7_re_a3 V3 7.0710678118654755
Rp7_re_re_a3 0 x7_re_a3 1.475874716179817e-08
Gp7_re_im_a3 0 x7_re_a3 x7_im_a3 0 799202811.7843775
Cx7_im_a3 x7_im_a3 0 1.0
Gp7_im_re_a3 0 x7_im_a3 x7_re_a3 0 -799202811.7843775
Rp7_im_im_a3 0 x7_im_a3 1.475874716179817e-08
Cx8_re_a3 x8_re_a3 0 1.0
Gx8_re_a3 0 x8_re_a3 p3 0 0.1414213562373095
Fx8_re_a3 0 x8_re_a3 V3 7.0710678118654755
Rp8_re_re_a3 0 x8_re_a3 1.405368041667279e-08
Gp8_re_im_a3 0 x8_re_a3 x8_im_a3 0 392250270.75727797
Cx8_im_a3 x8_im_a3 0 1.0
Gp8_im_re_a3 0 x8_im_a3 x8_re_a3 0 -392250270.75727797
Rp8_im_im_a3 0 x8_im_a3 1.405368041667279e-08
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 -2.4852080851941725e-07
Fd4_1 0 s4 V1 -1.2426040425970864e-05
Gr1_re_4_1 0 s4 x1_re_a1 0 33593.84811452647
Gr1_im_4_1 0 s4 x1_im_a1 0 83122.50716913716
Gr2_re_4_1 0 s4 x2_re_a1 0 342389.77961892146
Gr2_im_4_1 0 s4 x2_im_a1 0 274503.43926102074
Gr3_re_4_1 0 s4 x3_re_a1 0 16482.9860842245
Gr3_im_4_1 0 s4 x3_im_a1 0 78694.1069556413
Gr4_re_4_1 0 s4 x4_re_a1 0 -6313.220701779689
Gr4_im_4_1 0 s4 x4_im_a1 0 72058.54410607684
Gr5_re_4_1 0 s4 x5_re_a1 0 21858.38509918654
Gr5_im_4_1 0 s4 x5_im_a1 0 70725.04154952629
Gr6_4_1 0 s4 x6_a1 0 18133.608475559337
Gr7_re_4_1 0 s4 x7_re_a1 0 27749.178865909333
Gr7_im_4_1 0 s4 x7_im_a1 0 100460.12772751407
Gr8_re_4_1 0 s4 x8_re_a1 0 151233.4173641563
Gr8_im_4_1 0 s4 x8_im_a1 0 64778.62592869356
Gd4_2 0 s4 p2 0 -2.179857715605095e-05
Fd4_2 0 s4 V2 -0.0010899288578025475
Gr1_re_4_2 0 s4 x1_re_a2 0 2348518.446088838
Gr1_im_4_2 0 s4 x1_im_a2 0 7990664.235673392
Gr2_re_4_2 0 s4 x2_re_a2 0 31840568.226865456
Gr2_im_4_2 0 s4 x2_im_a2 0 24747005.1020566
Gr3_re_4_2 0 s4 x3_re_a2 0 -9088734.640168171
Gr3_im_4_2 0 s4 x3_im_a2 0 4255323.40742791
Gr4_re_4_2 0 s4 x4_re_a2 0 -12505282.496438561
Gr4_im_4_2 0 s4 x4_im_a2 0 7580498.217760673
Gr5_re_4_2 0 s4 x5_re_a2 0 -4498487.333232818
Gr5_im_4_2 0 s4 x5_im_a2 0 17932146.937336713
Gr6_4_2 0 s4 x6_a2 0 26570192.671942387
Gr7_re_4_2 0 s4 x7_re_a2 0 3623288.986042456
Gr7_im_4_2 0 s4 x7_im_a2 0 26398671.266290825
Gr8_re_4_2 0 s4 x8_re_a2 0 30245785.550962456
Gr8_im_4_2 0 s4 x8_im_a2 0 20115209.557762705
Gd4_3 0 s4 p3 0 5.918787638566688e-07
Fd4_3 0 s4 V3 2.9593938192833446e-05
Gr1_re_4_3 0 s4 x1_re_a3 0 -24474.6475477608
Gr1_im_4_3 0 s4 x1_im_a3 0 -178086.04882580353
Gr2_re_4_3 0 s4 x2_re_a3 0 -759076.8403812703
Gr2_im_4_3 0 s4 x2_im_a3 0 -597920.6254122629
Gr3_re_4_3 0 s4 x3_re_a3 0 -519340.81613082817
Gr3_im_4_3 0 s4 x3_im_a3 0 -178240.63224658888
Gr4_re_4_3 0 s4 x4_re_a3 0 -767982.7305323281
Gr4_im_4_3 0 s4 x4_im_a3 0 -41672.11701528683
Gr5_re_4_3 0 s4 x5_re_a3 0 -509546.01473912416
Gr5_im_4_3 0 s4 x5_im_a3 0 731912.7721968372
Gr6_4_3 0 s4 x6_a3 0 91890.85648032551
Gr7_re_4_3 0 s4 x7_re_a3 0 34542.544903316186
Gr7_im_4_3 0 s4 x7_im_a3 0 931870.9562467128
Gr8_re_4_3 0 s4 x8_re_a3 0 1348417.2623419801
Gr8_im_4_3 0 s4 x8_im_a3 0 507226.08378385793
Gd4_4 0 s4 p4 0 0.0006799997154338621
Fd4_4 0 s4 V4 0.03399998577169311
Gr1_re_4_4 0 s4 x1_re_a4 0 -268111128.41790262
Gr1_im_4_4 0 s4 x1_im_a4 0 146791983.07263377
Gr2_re_4_4 0 s4 x2_re_a4 0 -719334995.7119558
Gr2_im_4_4 0 s4 x2_im_a4 0 434598499.5387977
Gr3_re_4_4 0 s4 x3_re_a4 0 -1943706.523090432
Gr3_im_4_4 0 s4 x3_im_a4 0 -881288.2468886129
Gr4_re_4_4 0 s4 x4_re_a4 0 -990854.0722475965
Gr4_im_4_4 0 s4 x4_im_a4 0 -561129.3336204708
Gr5_re_4_4 0 s4 x5_re_a4 0 -1025204.684332722
Gr5_im_4_4 0 s4 x5_im_a4 0 842054.6610388615
Gr6_4_4 0 s4 x6_a4 0 -2313655.5811619125
Gr7_re_4_4 0 s4 x7_re_a4 0 -1596964.3224341522
Gr7_im_4_4 0 s4 x7_im_a4 0 255803.70173420644
Gr8_re_4_4 0 s4 x8_re_a4 0 2090203.4393272167
Gr8_im_4_4 0 s4 x8_im_a4 0 420032.9655576205
*
* State networks driven by port 4
Cx1_re_a4 x1_re_a4 0 1.0
Gx1_re_a4 0 x1_re_a4 p4 0 0.1414213562373095
Fx1_re_a4 0 x1_re_a4 V4 7.0710678118654755
Rp1_re_re_a4 0 x1_re_a4 5.459780391024284e-11
Gp1_re_im_a4 0 x1_re_a4 x1_im_a4 0 275553683290.4843
Cx1_im_a4 x1_im_a4 0 1.0
Gp1_im_re_a4 0 x1_im_a4 x1_re_a4 0 -275553683290.4843
Rp1_im_im_a4 0 x1_im_a4 5.459780391024284e-11
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 1.7687306859576826e-11
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 168627794214.79266
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -168627794214.79266
Rp2_im_im_a4 0 x2_im_a4 1.7687306859576826e-11
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 2.0961781576894717e-08
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 2919704298.026737
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -2919704298.026737
Rp3_im_im_a4 0 x3_im_a4 2.0961781576894717e-08
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 1.8418113524322192e-08
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 2031447966.5871341
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -2031447966.5871341
Rp4_im_im_a4 0 x4_im_a4 1.8418113524322192e-08
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 1.6775599720186417e-08
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 1622484916.8035316
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -1622484916.8035316
Rp5_im_im_a4 0 x5_im_a4 1.6775599720186417e-08
Cx6_a4 x6_a4 0 1.0
Gx6_a4 0 x6_a4 p4 0 0.07071067811865475
Fx6_a4 0 x6_a4 V4 3.5355339059327378
Rp6_a4 0 x6_a4 1.495011862748761e-08
Cx7_re_a4 x7_re_a4 0 1.0
Gx7_re_a4 0 x7_re_a4 p4 0 0.1414213562373095
Fx7_re_a4 0 x7_re_a4 V4 7.0710678118654755
Rp7_re_re_a4 0 x7_re_a4 1.475874716179817e-08
Gp7_re_im_a4 0 x7_re_a4 x7_im_a4 0 799202811.7843775
Cx7_im_a4 x7_im_a4 0 1.0
Gp7_im_re_a4 0 x7_im_a4 x7_re_a4 0 -799202811.7843775
Rp7_im_im_a4 0 x7_im_a4 1.475874716179817e-08
Cx8_re_a4 x8_re_a4 0 1.0
Gx8_re_a4 0 x8_re_a4 p4 0 0.1414213562373095
Fx8_re_a4 0 x8_re_a4 V4 7.0710678118654755
Rp8_re_re_a4 0 x8_re_a4 1.405368041667279e-08
Gp8_re_im_a4 0 x8_re_a4 x8_im_a4 0 392250270.75727797
Cx8_im_a4 x8_im_a4 0 1.0
Gp8_im_re_a4 0 x8_im_a4 x8_re_a4 0 -392250270.75727797
Rp8_im_im_a4 0 x8_im_a4 1.405368041667279e-08
.ENDS s_equivalent
